US05990102
b. 4-(Benzylthio)-1-(4-phenyl-2-oxobutyl)azetidin-2-one
To a cooled (cold water bath) solution of 4-(benzylthio)azetidin-2-one (5.5 g, 28.5 mmol), tetra-n-butylammonium bromide (0.9 g, 2.85 mmol) and 1-bromo-4-phenylbutan-2-one (7.1 g, 31.3 mmol) in dry THF (100 ml) was added freshly powdered potassium hydroxide (1.8 g, 31.3 mmol), and the mixture stirred vigorously for 2 hr at ambient temperature. Water was added and the product extracted into ethyl acetate, dried (MgSO4) and evaporated to an oil. Treatment with ether gave the product as a white crystalline solid (3.12 g, 32%) mp 79-81° C.

reactant | water | O | H2O
reactant | 4-(benzylthio)azetidin-2-one | 28.5 mmol, 5.5 g | C(C1=CC=CC=C1)SC1CC(N1)=O | C10H11NOS
reactant | 1-bromo-4-phenylbutan-2-one | 31.3 mmol, 7.1 g | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
reactant | potassium hydroxide | 31.3 mmol, 1.8 g | [OH-].[K+]
catalyst | tetra-n-butylammonium bromide | 2.85 mmol, 0.9 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(Benzylthio)-1-(4-phenyl-2-oxobutyl)azetidin-2-one | 3.12 g, 32% | C(C1=CC=CC=C1)SC1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C20H21NO2S
